US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxobutan-2-yl(methyl)carbamate (117 mg, 170 μmol) in 4 M HCl in dioxane (848 μl) was stirred for 1 h. The reaction was diluted with Et2O and the resulting solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)butanamide hydrochloride (90.5 mg, 85%) as a white solid. MS m/z 590 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxobutan-2-yl(methyl)carbamate | 170 μmol, 117 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](CC)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | C36H43N5O7S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 848 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-7-cyano-4-methyl-1-((2-methylnaphthalen-1-yl)methyl)-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)butanamide hydrochloride | 90.5 mg, 85% | Cl.C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](CC)NC)=O)=O)CC2=C(C=CC3=CC=CC=C23)C)C=C1 | InChI=1S/C31H35N5O5S.ClH/c1-6-25(33-4)30(38)34-29-20(3)36(28(37)18-42(5,40)41)27-15-21(16-32)12-14-26(27)35(31(29)39)17-24-19(2)11-13-22-9-7-8-10-23(22)24;/h7-15,20,25,29,33H,6,17-18H2,1-5H3,(H,34,38);1H/t20-,25-,29-;/m0./s1
